US08431563B2
To a 50-mL round-bottomed flask was added 3-(3-methoxybenzyl)-1-(thiophen-2-ylsulfonyl)piperazine (48 mg, 0.14 mmol), tris(dibenzylideneacetone)dipalladium (0) (6 mg, 6.81 μmol, Strem, Newburyport, Mass.), dicyclohexyl(2′,4′,6′-triisopropyl-[1,1′-biphenyl]-2-yl)phosphine (RuPhos) (13 mg, 0.027 mmol, Strem Chemicals, Newburyport, Mass.), sodium tert-butoxide (33 mg, 0.34 mmol) and 2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (53 mg, 0.16 mmol, Bioorg. Med. Chem. Lett. 2002, 12, 3009) in toluene (2 mL). The reaction mixture was stirred at 100° C. for 18 h. The mixture was cooled to room temperature and then diluted with saturated aqueous NH4Cl (10 mL) and extracted with EtOAc (2×30 mL). The organic extract was washed with saturated NaCl (10 mL) and dried over Na2SO4. The solution was filtered and concentrated in vacuo to give the crude material as light-yellow oil. The crude product was purified by silica gel chromatography, eluting with 20% EtOAc in hexanes to give 1,1,1,3,3,3-hexafluoro-2-(4-(2-(3-methoxybenzyl)-4-(thiophen-2-ylsulfonyl)piperazin-1-yl)phenyl)-2-propanol (41 mg) (racemic mixture) as a colorless tar.

reactant | 3-(3-methoxybenzyl)-1-(thiophen-2-ylsulfonyl)piperazine | 0.14 mmol, 48 mg | COC=1C=C(CC2CN(CCN2)S(=O)(=O)C=2SC=CC2)C=CC1 | C16H20N2O3S2
reactant | dicyclohexyl(2′,4′,6′-triisopropyl-[1,1′-biphenyl]-2-yl)phosphine | 0.027 mmol, 13 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | sodium tert-butoxide | 0.34 mmol, 33 mg | CC(C)([O-])C.[Na+]
reactant | 2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 0.16 mmol, 53 mg | BrC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C9H5BrF6O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | NH4Cl | 10 mL | [NH4+].[Cl-]
catalyst | tris(dibenzylideneacetone)dipalladium | 6.81 μmol, 6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1,1,1,3,3,3-hexafluoro-2-(4-(2-(3-methoxybenzyl)-4-(thiophen-2-ylsulfonyl)piperazin-1-yl)phenyl)-2-propanol | 41 mg | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)N1C(CN(CC1)S(=O)(=O)C=1SC=CC1)CC1=CC(=CC=C1)OC)(F)F | C25H24F6N2O4S2
